US06852727B2
Step A: N-Methoxy-N-methyl-3,4-dichlorobenzamide
To a suspension of 3,4-dichlorobenzoic acid (1.0 g, 5.24 mmol) in CH2Cl2 (25 mL) was added N,O-dimethylhydroxylamine hydrochloride (613 mg, 6.28 mmol) followed by N-methylmorpholine (865 μL, 7.85 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 g, 6.28 mmol) at which point the reaction mixture became homogeneous. After 2 h, the reaction mixture was diluted with EtOAc and washed with 1N HCl, H2O, saturated NaHCO3 solution and brine, sequentially. The organic layer was dried over Na2SO4, and the removal of solvent in vacuo gave the title compound (1.16 g) that required no further purification.

reactant | 3,4-dichlorobenzoic acid | 5.24 mmol, 1.0 g | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 6.28 mmol, 613 mg | Cl.CNOC
reactant | N-methylmorpholine | 7.85 mmol, 865 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.28 mmol, 1.2 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Methoxy-N-methyl-3,4-dichlorobenzamide | 1.16 g | CON(C(C1=CC(=C(C=C1)Cl)Cl)=O)C | C9H9Cl2NO2
